US04609666
α,α-Bis(4-chlorophenyl)-1H-pyrazole-3-methanol
A solution of 14.2 g of 1-(dimethoxymethyl)-pyrazole in 125 ml of tetrahydrofuran at -40° C. was treated with 79 ml of a 1.27M solution of n-butyllithium in hexane under a nitrogen atmosphere. When this addition was complete, 25.2 g of 4,4'-dichlorobenzophenone were added. The reaction was stirred for 48 hours allowing the temperature to come to room temperature. The reaction mixture was added to 200 ml of water and the mixture was extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate, filtered and evaporated. The semi-solid residue was triturated with toluene. The toluene filtrate was collected and evaporated and the residue therefrom was purified by high pressure liquid chromatography over silica gel. The appropriate fractions were combined and evaporated to provide 9.5 g of the desired title product. Crystallization from 15% ethyl acetate in hexane provided material with a melting point of 138°-140° C. A second recrystallization provided material with the following analysis.

reactant | 1-(dimethoxymethyl)-pyrazole | 14.2 g | COC(N1N=CC=C1)OC | C6H10N2O2
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4,4'-dichlorobenzophenone | 25.2 g | ClC1=CC=C(C(=O)C2=CC=C(C=C2)Cl)C=C1 | C13H8Cl2O
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | α,α-Bis(4-chlorophenyl)-1H-pyrazole-3-methanol | 9.5 g | ClC1=CC=C(C=C1)C(O)(C1=NNC=C1)C1=CC=C(C=C1)Cl | C16H12Cl2N2O
